US06417212B1
2-Methyl-2-{4-[2-(5-methyl-2-[4′-fluorobiphenyl-3-yl]-oxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester (24.7 mmol) was dissolved in methanol (200 mL) and 2N NaOH (150 mL) was added. The resulting cloudy solution became clear after 30 min and the reaction was stirred vigorously overnight. The solution was concentrated under reduced pressure, diluted with H2O (100 mL) and acidified to pH=1 with 5N HCl. The mixture was extracted with ethyl acetate (2×200 mL), dried (MgSO4), and concentrated under reduced pressure to provide an oil. The oil (8.23 g) was recrystallized from ethyl acetate (24 mL) and hexanes (56 mL) to afford 2-(4-{2-[2-(4′-fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid (7.57 g, 67%) as colorless needles after drying at 50° C. under vacuum for 6 h: Rf=0.12 in 6:4 ethyl acetate:hexanes; 1H NMR (400 MHz, DMSO-d6) δ8.02 (s, 1H), 7.88 (d, J=7.6 Hz, 1H), 7.77-7.73 (m, 3H), 7.57 (t, J=7.6 Hz, 1H), 7.30 (t, J=9.2 Hz, 2H), 6.83 (d, J=9.2 Hz, 2H), 6.78 (d, J,=9.2 Hz, 2H), 4.14 (t, J=6.4 Hz, 2H), 2.90 (t, J=6.4 Hz, 2H), 2.35 (s, 3H), 1.39 (s, 6H); MS (EI) 476.2 (M+H)+, 474.2 (M−H)−.

reactant | 2-Methyl-2-{4-[2-(5-methyl-2-[4′-fluorobiphenyl-3-yl]-oxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester | 24.7 mmol | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=C(C=C1)F)C)=O | C30H30FNO5
reactant | NaOH | 2N, 150 mL | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 2-(4-{2-[2-(4′-fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid | 7.57 g, 67% | FC1=CC=C(C=C1)C1=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C28H26FNO5
